US06329400B1
To a solution of pentafluorophenyl (2R,3S)-2-(3-phenyl-1-propyl)-3-(formyl-2-tetrahydropyranyloxyamino)hexanoate (90 mg, 0.166 mmol) in DMF (0.5 mL) is added (2S)-6-benzyloxycarbonylamino-2-aminohexanoic acid 1,3,4-thiadiazol-2-ylamide (78 mg, 0.215 mmol) and HOBt ( 2.2 mg, 0.017 mmol). The resulting solution is heated to 50° C. and is stirred for 18 h. The reaction mixture is cooled to 25° C., concentrated in vacuo, diluted with 20 mL of EtOAc, and washed with 1 M aqueous sodium carbonate solution. The organic layer is dried over magnesium sulfate, concentrated in vacuo, and purified by silica gel chromatography (elution with 2:1 EtOAc-hexane) to provide (2R,3S)-3-(formyl-2-tetrahydropyranyloxyamino)-2-(3-phenyl-1-propyl)hexanoic acid [(1S)-5-benzyloxycarbonylamino-1-(1,3,4-thiadiazol-2-ylcarbamoyl)-1-pentyl]amide as an oil (24.1 mg, 25% yield). APCI-MS m/z 745 (M+Na)+.

reactant | pentafluorophenyl (2R,3S)-2-(3-phenyl-1-propyl)-3-(formyl-2-tetrahydropyranyloxyamino)hexanoate | 0.166 mmol, 90 mg | C1(=CC=CC=C1)CCC[C@@H](C(=O)OC1=C(C(=C(C(=C1F)F)F)F)F)[C@H](CCC)N(OC1OCCCC1)C=O | C27H30F5NO5
reactant | (2S)-6-benzyloxycarbonylamino-2-aminohexanoic acid 1,3,4-thiadiazol-2-ylamide | 0.215 mmol, 78 mg | S1C(=NN=C1)NC([C@H](CCCCNC(=O)OCC1=CC=CC=C1)N)=O | C16H21N5O3S
reactant | HOBt | 0.017 mmol, 2.2 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | (2R,3S)-3-(formyl-2-tetrahydropyranyloxyamino)-2-(3-phenyl-1-propyl)hexanoic acid [(1S)-5-benzyloxycarbonylamino-1-(1,3,4-thiadiazol-2-ylcarbamoyl)-1-pentyl]amide | 24.1 mg, 25% yield | C(C1=CC=CC=C1)OC(=O)NCCCC[C@@H](C(NC=1SC=NN1)=O)NC([C@@H]([C@H](CCC)N(OC1OCCCC1)C=O)CCCC1=CC=CC=C1)=O | C37H50N6O7S
